US04981843
C. 6-[[(1,1-Dimethylethoxy)carbonyl]amino]hexanoic acid
6-Aminocaproic acid (14.4 g, 110 mmol, 1.1 eq.) was treated with sodium hydroxide (4.4 g, 110 mmol) dissolved in 11 mL of water. t-Butanol (22 mL) was added resulting in a suspension which was next treated with di-tertbutylcarbonate (21.8 g, 100 mmol) dissolved in t-butanol (22 mL). The reaction mixture, which remained a suspension, was stirred for 48 hours at room temperature, then treated with water (75 mL), giving a clear solution. The aqueous solution was then rinsed with two portions of petroleum ether (250 mL), then cooled in an ice-bath and acidified to pH 2 with solid potassium hydrogen sulfate. The acidified aqueous layer was extracted twice with portions of ethyl acetate (250 mL). The combined organic extract was rinsed with two 50 mL portions of water and brine, then dried over anhydrous magnesium sulfate and concentrated in vacuo. Trituration of the crude product (24 g) afforded 21.67 g of the title C compound, m.p. 39°-42° C.

reactant | 6-Aminocaproic acid | 110 mmol, 14.4 g, 1.1 eq. | NCCCCCC(=O)O | C6H13NO2
reactant | sodium hydroxide | 110 mmol, 4.4 g | [OH-].[Na+]
reactant | di-tertbutylcarbonate | 100 mmol, 21.8 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | water | 11 mL | O | H2O
solvent | t-butanol | 22 mL | C(C)(C)(C)O | C4H10O
solvent | water | 75 mL | O | H2O
solvent | t-Butanol | 22 mL | C(C)(C)(C)O | C4H10O
product | 6-[[(1,1-Dimethylethoxy)carbonyl]amino]hexanoic acid | 24 g | CC(C)(OC(=O)NCCCCCC(=O)O)C | C11H21NO4
